US04962102
42 g (0.036 mol) of anhydrous potassium carbonate are added to a solution of 72.0 g (0.36 mol) of 2,4-dichloro-5-nitrothiazole in 300 ml of acetonitrile. A solution of 28.2 g (0.3 mol) of phenol in 300 ml of acetonitrile is then added dropwise at 15° C. to 20° C. in the course of about 1.5 hours and the mixture is subsequently stirred at the same temperature for a further 0.5 hour. It is then heated at the reflux temperature for 15 minutes, cooled to room temperature and then stirred into 3 liters of ice-water and the precipitate is filtered off, washed with water and dried. To remove excess 2,4-dichloro-5-nitrothiazole, the product is stirred in 500 ml of petroleum ether at about 20° C., filtered off, washed with petroleum ether and dried. 75.4 g (98.0% of theory) of 4-chloro-5-nitro-2-phenoxythiazole are thus obtained. Melting point 96° C. (from petroleum ether).

reactant | potassium carbonate | 0.036 mol, 42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichloro-5-nitrothiazole | 0.36 mol, 72.0 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
reactant | phenol | 0.3 mol, 28.2 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-chloro-5-nitro-2-phenoxythiazole | 75.4 g, 98.0% | ClC=1N=C(SC1[N+](=O)[O-])OC1=CC=CC=C1 | C9H5ClN2O3S
